US05962490
N-(methyoxyethoxymethyl)-N-(3,4-dimethyl-5-isoxazolyl)thiophene-2-sulfonamide was prepared in the same manner as described in Example 32B using N-(3,4-dimethyl-5-isoxazolyl)thiophene-2-sulfonamide and methoxyethoxymethyl chloride resulting in 34% yield. HPLC analysis of the crude oil obtained after workup showed that the oil was approximately 96% pure and so was used in the next step without further purification.

reactant | N-(3,4-dimethyl-5-isoxazolyl)thiophene-2-sulfonamide | CC1=NOC(=C1C)NS(=O)(=O)C=1SC=CC1 | C9H10N2O3S2
reactant | methoxyethoxymethyl chloride | COCCOCCl | C4H9ClO2
product | N-(methyoxyethoxymethyl)-N-(3,4-dimethyl-5-isoxazolyl)thiophene-2-sulfonamide | 34% yield | COCCOCN(S(=O)(=O)C=1SC=CC1)C1=C(C(=NO1)C)C | C13H18N2O5S2
